US08217168B2
To a solution of 2-[3,3-bis(methyloxy)propyl]-6-methyl-4-(phenylcarbonyl)-1,2,4-triazine-3,5(2H,4H)-dione (P3, 92 mg, 0.276 mmol) in Tetrahydrofuran (THF) (2.3 mL), 1N hydrochloric acid aqueous solution (0.690 mL, 0.690 mmol) was added and the mixture was stirred at rt for 2.5 hours. The reaction was then quenched with water and extracted with AcOEt. Organic phase was washed with water and NaHCO3 saturated solution, dried over Na2SO4 and evaporated under reduced pressure affording 3-[6-methyl-3,5-dioxo-4-(phenylcarbonyl)-4,5-dihydro-1,2,4-triazin-2(3H)-yl]propanal as a crude product that was used for next step without purification.

reactant | 2-[3,3-bis(methyloxy)propyl]-6-methyl-4-(phenylcarbonyl)-1,2,4-triazine-3,5(2H,4H)-dione | 0.276 mmol, 92 mg | COC(CCN1N=C(C(N(C1=O)C(=O)C1=CC=CC=C1)=O)C)OC | C16H19N3O5
reactant | hydrochloric acid | 0.690 mmol, 1N, 0.690 mL | Cl | ClH
solvent | Tetrahydrofuran | 2.3 mL | O1CCCC1 | C4H8O
product | 3-[6-methyl-3,5-dioxo-4-(phenylcarbonyl)-4,5-dihydro-1,2,4-triazin-2(3H)-yl]propanal | CC=1C(N(C(N(N1)CCC=O)=O)C(=O)C1=CC=CC=C1)=O | C14H13N3O4
